US04407814
3-(3,5-dichloro-4-phenyl)-5,5-dimethylhydantoin, which melts at 175°-176°, is obtained in the manner indicated in Example 1 from 3,5-dichloro-4-fluoro-aniline and 2-isocyanato-2-methylpropionic acid methyl ester and after crystallizing from ether/petroleum ether. The N-[(3,5-dichloro-4-fluorophenyl)-carbamoyl]-2-methylalanine methyl ester intermediately formed is not isolated.

reactant | 3,5-dichloro-4-fluoro-aniline | ClC=1C=C(N)C=C(C1F)Cl | C6H4Cl2FN
reactant | 2-isocyanato-2-methylpropionic acid methyl ester | COC(C(C)(C)N=C=O)=O | C6H9NO3
product | N-[(3,5-dichloro-4-fluorophenyl)-carbamoyl]-2-methylalanine methyl ester | COC(C(NC(NC1=CC(=C(C(=C1)Cl)F)Cl)=O)(C)C)=O | C12H13Cl2FN2O3
